US04243819
Alternatively, using the procedure of Example 38, p-aminophenyl trifluoromethyl sulfide is reacted with the sodium salt of α-bromoisovaleric acid to yield N-(4-trifluoromethylthiophenyl)valine, which is esterified to yield the m-phenoxybenzyl ester of N-(4-trifluoromethylthiophenyl)valine.

reactant | p-aminophenyl trifluoromethyl sulfide | FC(F)(F)SC1=CC=C(C=C1)N | C7H6F3NS
reactant | sodium | [Na] | Na
reactant | α-bromoisovaleric acid | BrC(C(=O)O)C(C)C | C5H9BrO2
product | N-(4-trifluoromethylthiophenyl)valine | FC(SC1=CC=C(C=C1)N[C@@H](C(C)C)C(=O)O)(F)F | C12H14F3NO2S
